US09284323B2
Preparation of 3-methyl-6-(methylsulfonyl)naphthalen-1-ol:
A mixture of 2-bromo-3-methyl-6-(methylsulfonyl)naphthalen-1-ol (0.500 g, 1.59 mmol), 10% palladium on carbon (0.050 g) and triethylamine (0.331 mL, 2.38 mmol) in ethanol was stirred under a hydrogen atmosphere for 1.5 hours. Celite was added and the mixture was stirred for 10 minutes, filtered through a pad of Celite and the filtrate concentrated. The residue was dissolved in ethyl acetate, washed with dilute HCl/brine, dried (MgSO4), filtered, concentrated, and purified by flash column chromatography (silica gel, 20 to 50% ethyl acetate/hexanes) to give the desired product. LCMS-ESI+ (m/z): [M−H]− calcd for C12H11O3S: 235.3. Found: 235.2.

reactant | 2-bromo-3-methyl-6-(methylsulfonyl)naphthalen-1-ol | 1.59 mmol, 0.500 g | BrC1=C(C2=CC=C(C=C2C=C1C)S(=O)(=O)C)O | C12H11BrO3S
reactant | triethylamine | 2.38 mmol, 0.331 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium on carbon | 0.050 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-methyl-6-(methylsulfonyl)naphthalen-1-ol | CC=1C=C(C2=CC=C(C=C2C1)S(=O)(=O)C)O | C12H12O3S
